US06140100
A mixture of 5.0 g of 3-iodo-L-tyrosine (Aldrich) and 2.5 mL of conc. H2SO4 in 85 mL of 1,4-dioxane was added to 30 mL of liquid isobutylene (condensed at -78° C.) in a 300 mL pressure bottle. The vessel was stoppered and the contents stirred at RT. After 3 days the bottle was cooled in an ice water bath, opened and the solution poured into a mixture of 10 g of NaHCO3 in 150 mL of water. The resulting mixture was subjected to rotary evaporation to remove isobutylene and dioxane. A white solid resulted which was collected by filtration and dried in vacuo. Analysis by tlc (SiO2, CH2Cl2 :MeOH) indicated major and minor components at Rf= 0.52 and 0.60 respectively. The crude product was purified by flash chromatography on silica gel (95:5 CH2Cl2 :MeOH) to afford 3.4 g (58%) of tert-butyl 3-iodo-L-tyrosinate as a white crystalline solid, m.p. 158-159° C.

reactant | 3-iodo-L-tyrosine | 5.0 g | IC=1C=C(C[C@H](N)C(=O)O)C=CC1O | C9H10INO3
reactant | H2SO4 | 2.5 mL | OS(=O)(=O)O | H2O4S
reactant | isobutylene | CC(C)=C | C4H8
reactant | NaHCO3 | 10 g | C(=O)(O)[O-].[Na+]
solvent | 1,4-dioxane | 85 mL | O1CCOCC1 | C4H8O2
solvent | water | 150 mL | O | H2O
product | tert-butyl 3-iodo-L-tyrosinate | 3.4 g, 58% | IC=1C=C(C[C@H](N)C(=O)OC(C)(C)C)C=CC1O | C13H18INO3
